US07129238B2
α-Bromophenylacetic acid was reacted with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-bromo-N-(4-cyano-benzyl)-2-phenyl-acetamide. White solid. MS 329.1 ([M+H]+)

reactant | α-Bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-bromo-N-(4-cyano-benzyl)-2-phenyl-acetamide | BrC(C(=O)NCC1=CC=C(C=C1)C#N)C1=CC=CC=C1 | C16H13BrN2O
